US06518423B1
Methyl 1-(tert-butoxycarbonyl)-1,2,3,6-tetrahydro-4-pyridinecarboxylate
4.62 g of methyl 1-benzyl-1,2,3,6-tetrahydro-4-pyridinecarboxylate was dissolved in 30 ml of dichloromethane. Under ice-cooling, 4.29 g of 1-chloroethyl chloroformate was added thereto and the resulting mixture was heated under reflux for 2 hours. After adding 50 ml of methanol, the mixture was stirred at 70° C. for 1 hour and 20 minutes. Then triethylamine was added to the reaction mixture under ice-cooling until the pH value of the mixture exceeded 7. After further adding 4.37 g of tert-butyl dicarbonate, the resulting mixture was stirred at room temperature for 10 minutes. Then the reaction mixture was concentrated under reduced pressure, diluted with ethyl acetate, washed successively with water and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 4.46 g of the title compound as a yellow oily substance.

reactant | methyl 1-benzyl-1,2,3,6-tetrahydro-4-pyridinecarboxylate | 4.62 g | C(C1=CC=CC=C1)N1CCC(=CC1)C(=O)OC | C14H17NO2
reactant | 1-chloroethyl chloroformate | 4.29 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | methanol | 50 ml | CO | CH4O
reactant | tert-butyl dicarbonate | 4.37 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Methyl 1-(tert-butoxycarbonyl)-1,2,3,6-tetrahydro-4-pyridinecarboxylate | 4.46 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C(=O)OC | C12H19NO4
